US09260427B2
Prepared using General Procedure 18: A solution of (S)-tert-butyl 1-((S)-2-(((benzyloxy)carbonyl)amino)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)pyrrolidine-2-carboxylate (436 mg, 0.6 mmol) in THF (25 mL) was hydrogenated in the H-Cube using a 10% Pd/C CatCart at 60° C. (Full hydrogen, 1 mL/min). The reaction mixture was passed over the catalyst a second time at 65° C. The solvent was removed to give 307 mg (83%) of (S)-tert-butyl 1-((S)-2-amino-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)pyrrolidine-2-carboxylate INT-26 as a white powder. LCMS-ESI (m/z) calculated for C35H46N4O4: 586.4. found 587.4 [M+H]+, tR=6.99 min (Method 10).

reactant | (S)-tert-butyl 1-((S)-2-(((benzyloxy)carbonyl)amino)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)pyrrolidine-2-carboxylate | 0.6 mmol, 436 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)N1[C@@H](CCC1)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC | C43H52N4O6
reactant | hydrogen | [H][H] | H2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | (S)-tert-butyl 1-((S)-2-amino-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)pyrrolidine-2-carboxylate | 307 mg, 83% | N[C@H](C(=O)N1[C@@H](CCC1)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC | C35H46N4O4
